US08349880B2
Step N (5): Dichloromethane (100 mL) was added to a flask charged with 4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyaniline (2.5 g, 10.45 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (2.43 g, 10.5 mmol). The resulting mixture was stirred for 18 h at rt. The reaction mixture was concentrated in vacuo. The crude products were purified using silica gel chromatography (0-2% EtOAc/chloroform, linear gradient) to afford 4-(difluoromethyl)-1-(4-isothiocyanato-2-methoxyphenyl)-1H-imidazole (2.26 g, 77% yield). LC-MS (M+H)+ 282.1.

reactant | 4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyaniline | 10.45 mmol, 2.5 g | FC(C=1N=CN(C1)C1=C(C=C(N)C=C1)OC)F | C11H11F2N3O
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 10.5 mmol, 2.43 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(difluoromethyl)-1-(4-isothiocyanato-2-methoxyphenyl)-1H-imidazole | 2.26 g, 77% yield | FC(C=1N=CN(C1)C1=C(C=C(C=C1)N=C=S)OC)F | C12H9F2N3OS
